US05273993
Sulfamic acid 2-(methoxycarbonyl)propyl ester.
A mixture of 5.9 g (0.05 mole) of (S)-(+)methyl 3-hydroxy-2-methylpropionate, 9.5 g (0.055 mole) of phenyl sulfamate, 25 ml of toluene and 0.5 g of pyridine was heated at reflux for 2 hr. The reaction solution was concentrated under vacuum, and the residue was chromatographed, using silica gel and eluting with 2% methanol in methylene chloride. The desired fractions were concentrated under vacuum to give 3.9 g (40%) of a pale yellow oil.

reactant | (S)-(+)methyl 3-hydroxy-2-methylpropionate | 0.05 mole, 5.9 g | OC[C@@H](C(=O)OC)C | C5H10O3
reactant | phenyl sulfamate | 0.055 mole, 9.5 g | S(N)(OC1=CC=CC=C1)(=O)=O | C6H7NO3S
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 0.5 g | N1=CC=CC=C1 | C5H5N
product | Sulfamic acid 2-(methoxycarbonyl)propyl ester | 3.9 g, 40% | COC(=O)C(COS(N)(=O)=O)C | C5H11NO5S
